US08217066B2
Step 1: 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbonyl chloride:
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (4.2 g, 14.89 mmol) was dissolved in CH2Cl2 (42 mL) under N2 atmosphere. Oxalyl chloride (2.6 mL, 29.78 mmol) and DMF (5 drops) were added and the reaction stirred for 2.5 hours at room temperature. Then, additional oxalyl chloride (5 mL, 57.3 mmol) was added. After 30 minutes, the reaction mixture was concentrated and placed under high vacuum. The crude material was used directly in the next step.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 14.89 mmol, 4.2 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | Oxalyl chloride | 29.78 mmol, 2.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 57.3 mmol, 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 42 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbonyl chloride | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)Cl | C11H7BrClNO2
